US07199127B2
1.1 g (0.005 mol) of (3aS,4R,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester compound (7) from the aforementioned Experimental Example 7 were dissolved in 40 mL (0.080 mol) of 2N methylamine solution in tetrahydrofuran, which was stirred at 50° C. for 24 h in a sealed container. After concentration under reduced pressure, the obtained concentrate was purified by silica gel column chromatography using the eluant (hexane:ethyl acetate=2:1) to obtain 953 mg (yield: 87%) of (3aS,4S,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide as an oil.

reactant | (3aS,4R,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl ester | 0.005 mol, 1.1 g | COC(=O)[C@@H]1SC[C@@H]2OC(O[C@@H]21)(C)C | C9H14O4S
reactant | methylamine | 0.080 mol, 2N, 40 mL | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3aS,4S,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4-carboxylic acid methyl amide | 953 mg, yield: 87% | CNC(=O)[C@H]1SC[C@@H]2OC(O[C@@H]21)(C)C | C9H15NO3S
